US06900227B2
Preparation of (3,4-dihydroxy-phenyl)-morpholin-4-yl-methanone
To a cooled (0° C.) solution of (2,2-diphenyl-benzo[1,3]dioxol-5-yl)-morpholin-4-yl-methanone (270 mg, 0.7 mmol) in trifluoroacetic acid (4 mL) was added triethylsilane (160 mg, 1.38 mmol, 1.96 eq.). The reaction mixture was stirred 20 min at 0° C. The cooling bath was removed and the reaction mixture was stirred for 4 h at R.T. The reaction mixture was evaporated. Purification by flash chromatography afforded the title compound (147 mg, 95%) as a white solid.

reactant | (2,2-diphenyl-benzo[1,3]dioxol-5-yl)-morpholin-4-yl-methanone | 0.7 mmol, 270 mg | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)C(=O)N2CCOCC2)C2=CC=CC=C2 | C24H21NO4
reactant | triethylsilane | 1.38 mmol, 160 mg, 1.96 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (3,4-dihydroxy-phenyl)-morpholin-4-yl-methanone | 147 mg, 95% | OC=1C=C(C=CC1O)C(=O)N1CCOCC1 | C11H13NO4
